US07683060B2
Step 1. tert-butyl 2-[methyl(pyridin-2-yl)amino]ethylcarbamate
A solution of tert-butyl [2-(methylamino)ethyl]carbamate hydrochloride (0.30 g, 0.0014 mol), 2-chloropyridine (160 mg, 0.0014 mol), and triethylamine (300 μL, 0.0021 mol) in acetonitrile (5 mL) was heated at 90° C. overnight. The mixture was diluted with methanol, and purified by RP-HPLC (pH=10) to afford the desired product. Analytical LCMS: (M+H)+=252.1

reactant | tert-butyl [2-(methylamino)ethyl]carbamate hydrochloride | 0.0014 mol, 0.30 g | Cl.CNCCNC(OC(C)(C)C)=O
reactant | 2-chloropyridine | 0.0014 mol, 160 mg | ClC1=NC=CC=C1 | C5H4ClN
reactant | triethylamine | 0.0021 mol, 300 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
product | tert-butyl 2-[methyl(pyridin-2-yl)amino]ethylcarbamate | CN(CCNC(OC(C)(C)C)=O)C1=NC=CC=C1 | C13H21N3O2
